US07132442B2
Nitronium tetrafluoroborate (0.168 g, 1.26 mmol) was added to a solution of 1-[2-methyl-2-(4-methyl-2-thienyl)propanoyl]pyrrolidine (0.145 g, 0.61 mmol) in dimethoxy ethane (5 ml) cooled to −50 C. The mixture was allowed to warm to −30 C over 1 hour. The mixture was poured into water and extracted with ethyl acetate. The organic layer was separated and washed sequentially with a saturated solution of sodium bicarbonate and then with a saturated brine solution. The ethyl acetate solution was dried over magnesium sulfate and then evaporated to afford 1-[2-methyl-2-(4-methyl-5-nitro-2-thienyl)propanoyl]pyrrolidine as a yellow solid which was used in the next step without purification. 1H NMR (CDCl3): 1.62 (s, 6H), 1.73–1.81 (m, 4H), 2.58 (s, 3H), 3.03 (br, 2H), 3.53 (br, 2H), 6.66 (3, 1H).

reactant | Nitronium tetrafluoroborate | 1.26 mmol, 0.168 g | F[B-](F)(F)F.O=[N+]=O
reactant | 1-[2-methyl-2-(4-methyl-2-thienyl)propanoyl]pyrrolidine | 0.61 mmol, 0.145 g | CC(C(=O)N1CCCC1)(C)C=1SC=C(C1)C | C13H19NOS
reactant | water | O | H2O
solvent | dimethoxy ethane | 5 ml | C(OC)COC | C4H10O2
product | 1-[2-methyl-2-(4-methyl-5-nitro-2-thienyl)propanoyl]pyrrolidine | CC(C(=O)N1CCCC1)(C)C=1SC(=C(C1)C)[N+](=O)[O-] | C13H18N2O3S
